US05811439
Synthesis of methyl 1-[(5-methyl-2-phenyloxazol-4-yl)methyl]indole-4-carboxylate
Methyl indole-4-carboxylate (700 mg) was dissolved in 7 ml of dimethylformamide, then 160 mg of sodium hydride (content 60%) was added to the resulting solution at room temperature and the mixture was stirred for 30 minutes. After adding 830 mg of 4-chloromethyl-5-methyl-2-phenyloxazole to the mixture and stirring them for 2 hours, the reaction solution was added to 70 ml of water and extracted with ethyl acetate (50 ml×2). The resulting organic phase was washed with, in order, water (50 ml×2) and 50 ml of a saturated common salt aqueous solution and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the residue was crystallized in 50 ml of hexane to thus give 1.18 g of methyl 1-[(5-methyl-2-phenyloxazol-4-yl)methyl]indole-4-carboxylate as pale brown crystals. The yield thereof was found to be 85%.

reactant | Methyl indole-4-carboxylate | 700 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 830 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | water | 70 ml | O | H2O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | methyl 1-[(5-methyl-2-phenyloxazol-4-yl)methyl]indole-4-carboxylate | CC1=C(N=C(O1)C1=CC=CC=C1)CN1C=CC=2C(=CC=CC12)C(=O)OC | C21H18N2O3
